US08242133B2
To a mixture of 0.40 g of 2-(3-iodopyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.21 g of 3-pyridine boronic acid, 8 ml of 1,4-dioxane and 0.07 g of dichlorobis(triphenylphosphine)palladium (II), a mixture of 0.40 g of sodium carbonate and 3 ml of water was added and heated to reflux for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.36 g of 4-(5-trifluoromethyl-benzoxazole-2-yl)-[3,3′]bipyridinyl (hereinafter, referred to as “active compound 128”).

reactant | 2-(3-iodopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.40 g | IC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F3IN2O
reactant | 3-pyridine boronic acid | 0.21 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 0.40 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 4-(5-trifluoromethyl-benzoxazole-2-yl)-[3,3′]bipyridinyl | 0.36 g | FC(C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)C=2C=NC=CC2)C1)(F)F | C18H10F3N3O
